US06797823B1
N-(2-Chloro-4-{[6-methoxy-7-(2-pyridyl-methoxy)-4-quinolyl]oxy}phenyl)-N′-propylurea
A starting compound (N-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]phenyl)-N′-propylurea, 80 mg), potassium carbonate (138 mg), and 2-chloromethylpyridine hydrochloride (41 mg) were dissolved in N,N-dimethylformamide (1 ml), and the solution was stirred at 80° C. for 3 hr. Water was added to the reaction mixture, and the mixture was extracted with chloroform-propanol (3/1). The organic layer was dried over anhydrous sodium sulfate. The solvent was removed by distillation under the reduced pressure. The residue was purified by HPLC to give 81 mg (yield 82%) of the title compound.

reactant | N-{2-chloro-4-[(7-hydroxy-6-methoxy-4-quinolyl)oxy]phenyl)-N′-propylurea | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)O)NC(=O)NCCC | C20H20ClN3O4
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloromethylpyridine hydrochloride | 41 mg | Cl.ClCC1=NC=CC=C1
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | N-(2-Chloro-4-{[6-methoxy-7-(2-pyridyl-methoxy)-4-quinolyl]oxy}phenyl)-N′-propylurea | 81 mg, yield 82% | ClC1=C(C=CC(=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OCC1=NC=CC=C1)NC(=O)NCCC | C26H25ClN4O4
